US05461059
56 g N-(4-fluorobenzyl) 2-nitroaniline are reduced in the presence of 34 g of 5% palladized charcoal into methanol (560 ml) using a stream of hydrogen at room temperature and normal pression. After achievement of the reaction, the mixture is washed with nitrogen, filtered on clay (Trade Mark Celite) and concentrated to dryness. The residue is recrystallized from isopropyl ether. The desired N-substituted phenylene diamine, is thus obtained recovered weight: 38.5 g. The starting material N-(4-fluorobenzyl) 2-nitroaniline is prepared by alkylating the 2-nitroaniline by means of 4-fluorobenzyl chloride in the methyl ethyl ketone.

reactant | 2-nitroaniline | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | 4-fluorobenzyl chloride | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | N-(4-fluorobenzyl) 2-nitroaniline | FC1=CC=C(CNC2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C13H11FN2O2
